US09056874B2
5-(Allyloxy)-7-methyl-1H-indole
7-Methyl-1H-indol-5-ol (5.2 g, 35.3 mmol) was dissolved in toluene (221 mL) and prop-2-en-1-ol (2.42 mL, 35.3 mmol) was added followed by cyanomethylenetributylphosphorane (21.32 g, 88 mmol). The reaction was heated at 100° C. After 1 hour the reaction was cooled to room temperature, concentrated and purified by silica gel flash chromatography (0:100 EtOAc:heptanes) to provide the title compound. MS (ESI+) m/z 188.15 (M+H).

reactant | 7-Methyl-1H-indol-5-ol | 35.3 mmol, 5.2 g | CC=1C=C(C=C2C=CNC12)O | C9H9NO
reactant | prop-2-en-1-ol | 35.3 mmol, 2.42 mL | C(C=C)O | C3H6O
reactant | cyanomethylenetributylphosphorane | 88 mmol, 21.32 g | C(#N)C=P(CCCC)(CCCC)CCCC | C14H28NP
solvent | toluene | 221 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(Allyloxy)-7-methyl-1H-indole | C(C=C)OC=1C=C2C=CNC2=C(C1)C | C12H13NO
